US07297704B2
2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid ethyl ester
4-Cyclohexanonecarboxylic acid ethyl ester (25 g, 147 mmol) and phenylhydrazine hydrochloride (20 g, 139 mmol) were refluxed in 550 mL of anhydrous ethanol overnight. The reaction was cooled and concentrated in vacuo. The residue was partitioned between ethyl acetate and water, then the organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel afforded 34.5 g (96%) of the title compound.

reactant | 4-Cyclohexanonecarboxylic acid ethyl ester | 147 mmol, 25 g | CCOC(=O)C1CCC(=O)CC1 | C9H14O3
reactant | phenylhydrazine hydrochloride | 139 mmol, 20 g | Cl.C1(=CC=CC=C1)NN
solvent | ethanol | 550 mL | C(C)O | C2H6O
product | 2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid ethyl ester | 34.5 g, 96% | C(C)OC(=O)C1CCC=2NC3=CC=CC=C3C2C1 | C15H17NO2
